US06660744B1
A mixture of cis-3-(3-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.120 g, 0.296 mmol, 1 equiv), furfural (0.03 mL, 0.3 mmol, 1.1 equiv), glacial acetic acid (0.07 mL, 1.1 mmol, 3.8 equiv), and sodium triacetoxyborohydride (0.314 g, 1.48 mmol, 5.0 equiv) in dichloroethane (2 mL) was stirred at ambient temperature for 60 h. Saturated aqueous sodium bicarbonate solution (5 mL) was added, the organic layer was separated, and the aqueous layer was extracted with two portions of CH2Cl2 (10 mL each). The organic extracts were dried over MgSO4, filtered, and concentrated to afford a yellow oil. Purification by column chromatography on silica gel (elution with 200 mL of 5% MeOH/CH2Cl2, 100 mL of 10% MeOH/CH2Cl2, and 300 mL of 10:20:70% MeOH/Et3N/CH2Cl2) afforded cis-3-{3-[di(2-furylmethyl)amino]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine as a white solid (0.051 g, 0.10 mmol): 1H NMR (d6 DMSO, 400 MHz): δ H 8.22 (1H, s), 7.60 (2H, s), 7.31-7.35 (1H, m), 7.19 (1H, s), 7.00 (1H, d, J=8.4 Hz), 6.93 (1H, d, J=7.6 Hz), 6.39 (2H, s), 6.32 (2H, s), 4.77-4.80 (1H, m), 4.60 (4H, s), 2.23-2.39 (11H, m), 2.16 (3H, s), 2.05-2.07 (2H, m), 1.59-1.71 (4H, m); RP-HPLC (Delta Pak C18, 5 μm, 300 Å, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 14.52 min. MS: MH+ 567.

reactant | cis-3-(3-aminophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.296 mmol, 0.120 g, 1 equiv | NC=1C=C(C=CC1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C22H30N8
reactant | furfural | 0.3 mmol, 0.03 mL, 1.1 equiv | C(C1=CC=CO1)=O | C5H4O2
reactant | acetic acid | 1.1 mmol, 0.07 mL, 3.8 equiv | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.48 mmol, 0.314 g, 5.0 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | cis-3-{3-[di(2-furylmethyl)amino]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.10 mmol, 0.051 g | O1C(=CC=C1)CN(C=1C=C(C=CC1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)CC=2OC=CC2 | C32H38N8O2
